US08563723B2
In 25 mL DCM, 1.09 g 3-chloro-N-[ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methylene]-4-methoxy-benzenesulfonamide was dissolved, and 11.69 mL of a 1M solution of BBr3 in DCM was added. The mixture was stirred overnight at room temperature, extracted with 5% aqueous NaHCO3, dried over MgSO4 and evaporated to dryness. The residue was purified by flash chromatography (DCM/EA 95:5) to yield 0.89 g (84%) of 3-Chloro-N-[ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methylene]-4-hydroxy-benzenesulfonamide as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 0.97 (t, J=7.52 Hz, 3H), 1.16 (t, J=7.22 Hz, 3H), 1.46-1.70 (m, 2H), 3.05-3.18 (m, 1H), 3.43-3.54 (m, 2H), 3.69 (dd, J=11.14, 7.52 Hz, 1H), 4.04-4.12 (m, 1H), 6.05 (br.s., 1H), 6.83 (br.s., 1H), 6.93 (d, J=1.50 Hz, 1H), 7.06 (d, J=8.43 Hz, 1H), 7.75 (dd, J=8.73, 2.11 Hz, 1H), 7.94 (d, J=2.11 Hz, 1H).

reactant | 3-chloro-N-[ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methylene]-4-methoxy-benzenesulfonamide | 1.09 g | ClC=1C=C(C=CC1OC)S(=O)(=O)N=C(N1N=CC(C1)CC)NCC | C15H21ClN4O3S
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-Chloro-N-[ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methylene]-4-hydroxy-benzenesulfonamide | 0.89 g, 84% | ClC=1C=C(C=CC1O)S(=O)(=O)N=C(N1N=CC(C1)CC)NCC | C14H19ClN4O3S
